2200-11-25 06:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   CC: unresponsive
   .
   HPI: This is a middle aged man who was found unresponsive. Per EMS, the
   patient was found by his superintendant sitting in a chair
   unresponsive. EMS found him unresposive, non-verbal, gave narcan 0.4mg
   x1 with no response. He had a small amount of vomiting enroute.
   .
   In the ED: He was unresponsive but moving his head around. His vitals
   were 98.8, HR 88, 124/66, resp 11, 97% RA. He had a neg CT head and
   spine. CXR WNL. Urine tox positive for opiates, serum tox neg.  UA w/o
   leuks or nitrites, but WBC [**11-28**], large blood, RBC neg.  WBC 22 but
   afebrile, given Vanc. Cr 8.9, K 6.3 with peaked T waves. Bicarb,
   insulin, glucose given, K down to 5.1. No kayaxelate given mental
   status. Nephrology was consulted and found no osmolar gap. They
   recommended rehydration at 125cc/hr, recheck K, renal U/S w/ doppler,
   check PTH. 2L NS given in ED.
   .
   ROS: unable to obtain
   .
   PMH: unable to obtain
   .
   Home Medications: unkown
   .
   Allergies: unkown
   .
   Social History:unkown
   .
   Family History: unkown
   .
   Physical Exam:
   Vitals: T: P: BP: R: SaO2:
   General: easily awaked and startled, non-verbal
   HEENT: NC/AT, will not allow me to open eyes well but pupils appear 2mm
   and symmetric
   Neck: supple, no JVD or carotid bruits appreciated
   Pulmonary: Lungs CTA bilaterally but difficult to assess with
   rhonchorous upper airway sounds
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
   organomegaly noted.
   Extremities: No C/C/E bilaterally, 2+ radial, DP and PT pulses b/l.
   Skin: no rashes or lesions noted, no fistula, no medical patches
   Neurologic:  limited exam
   -mental status: drowsy but arousable with follow a few commands: smiled
   symmetrically once, squeezed right hand but then would not follow
   further commands, when arm raised above head patient does not allow arm
   to fall on his face, when turned patient grabbed out to stabalize
   himself
   -cranial nerves: unassessable but symmetric smile
   -motor: normal bulk, strength and tone throughout. not moving
   extremeties
   -DTRs:1+ biceps, brachioradialis, 2+ patellar and 1+ ankle jerks
   bilaterally. Plantar response was flexor bilaterally.   +myoclonus
   .
   Laboratory Data: see below
   .
   Micro:
   UA: WBC [**11-28**], neg WBC, neg nitrite
   .
   EKG: HR 98, RRR, IVCD, peaked T waves, no ischemic changes
   .
   Radiologic Data:
   Head CT neg
   C Spine CT neg
   CXR neg no infiltrate
   .
   No events O/N.  This AM, the patient is
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Naloxone (Narcan) - [**2200-11-25**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-11-25**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (98.9
   HR: 91 (89 - 100) bpm
   BP: 125/61(78) {121/53(75) - 147/62(98)} mmHg
   RR: 12 (10 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             1,236 mL
   PO:
             TF:
   IVF:
   1,236 mL
   Blood products:
   Total out:
                                                                     10 mL
                                                                     60 mL
   Urine:
                                                                     10 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -10 mL
                                                                  1,176 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   General: easily awaked and startled, non-verbal
   HEENT: NC/AT, will not allow me to open eyes well but pupils appear 2mm
   and symmetric
   Neck: supple, no JVD or carotid bruits appreciated
   Pulmonary: Lungs CTA bilaterally but difficult to assess with
   rhonchorous upper airway sounds
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
   organomegaly noted.
   Extremities: No C/C/E bilaterally, 2+ radial, DP and PT pulses b/l.
   Skin: no rashes or lesions noted, no fistula, no medical patches
   Neurologic:  limited exam
   -mental status: drowsy but arousable with follow a few commands: smiled
   symmetrically once, squeezed right hand but then would not follow
   further commands, when arm raised above head patient does not allow arm
   to fall on his face, when turned patient grabbed out to stabalize
   himself
   -cranial nerves: unassessable but symmetric smile
   -motor: normal bulk, strength and tone throughout. not moving
   extremeties
   -DTRs:1+ biceps, brachioradialis, 2+ patellar and 1+ ankle jerks
   bilaterally. Plantar response was flexor bilaterally.   +myoclonus
   Labs / Radiology
   147 K/uL
   11.8 g/dL
   244 mg/dL
   9.3 mg/dL
   22 mEq/L
   5.6 mEq/L
   63 mg/dL
   103 mEq/L
   139 mEq/L
   35.7 %
   20.0 K/uL
        [image002.jpg]
                            [**2200-11-24**]  11:20 PM
                            [**2200-11-25**]  04:28 AM
   WBC
   18.1
   20.0
   Hct
   35.5
   35.7
   Plt
   143
   147
   Cr
   9.2
   9.3
   TropT
   0.07
   Glucose
   264
   244
   Other labs: CK / CKMB / Troponin-T:6445//0.07, ALT / AST:47/79, Alk
   Phos / T Bili:123/0.6, Differential-Neuts:77.3 %, Lymph:16.1 %,
   Mono:6.0 %, Eos:0.3 %, LDH:388 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL,
   PO4:6.5 mg/dL
   Assessment and Plan
   Middle aged man found unresponsive with altered mental status, elevated
   WBC and renal failure.
   .
   #AMS: + opiates. no osmolar gap (317-312 =5). tox otherwise neg. head
   CT neg. high WBC suggests either infection - although no fever- or
   stress response such as [**2-10**] seizure. His exam suggests that he is not
   truly unresponsive and that some of his "inability to respond" may be
   willfull. However, his high WBC, elevated Cr certainly suggests
   possible toxic-metabolic etiologies eg infection, uremia or inability
   to clear opiates/opiate overdose (although RR 12 and arousable)
   - narcan 1mg x1
   - will not give abx for now
   - repeat chem 7
   - f/u blood  and urine cx's
   - thiamine and folate
   - MRI in am
   .
   # Acute Renal Failure: unkown etiology at this time but appears to be
   acute given nl HCT and high K. FENa 0.65 suggests prerenal etiology.
   - check CK
   - recheck K, repeat EKG
   - monitor on telemetry
   - PTH
   - renal U/S with doppler
   - IVF 125cc/hr
   - recheck Ulytes in am
   .
   # Metabolic acidosis: 7.31/41. bicarb 19. Gap and non-gap acidosis with
   inadequate respiratory compensation. Gap acidosis could be [**2-10**] methanol
   (but neg osmolar gap), DKA/starvation ketosis (but not severely
   elevated serum glucose, urine ketones neg), uremia (although BUn only
   50), nl lactate, neg serum ASA, ethanol. Non-gap acidosis is likely [**2-10**]
   renal failure.
   - IVF and glucose
   - banana bag
   .
   # Identity: [**Month (only) 51**] be [**Known firstname 1620**] [**Known lastname 11565**] [**Medical Record Number 11567**]who has diabetes and is
   on lantus. OMR has indecipherable records from Dr. [**Last Name (STitle) **] in Cognitive
   Neurology re: "N-167 Protocol" and "tDCS".
   - will need to contact Dr. [**Last Name (STitle) **] tomorrow
   .
   #) Prophylaxis: PPI, sc heparin, bowel regimen
   .
   #) FEN: p.o. diet as tolerated
   .
   #) Access: PIVs
   .
   #) Code Status: Full
   .
   #) Dispo: pending further work-up and treatment
   ICU Care
   Nutrition: PO diet as tolerated
   Glycemic Control:
   Lines:
   20 Gauge - [**2200-11-24**] 10:50 PM
   22 Gauge - [**2200-11-24**] 10:50 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2200-11-25 09:33:00 Physician Attending Progress Note
Chief Complaint: unresponsiveness
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2200-11-25**] 04:48 AM
   Lying in bed, groaning, eyes open
   Patient unable to provide history: noncommunicative
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Naloxone (Narcan) - [**2200-11-25**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Endocrine: Hyperglycemia
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2200-11-25**] 09:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.3
C (99.1
   HR: 91 (89 - 100) bpm
   BP: 119/60(74) {119/53(74) - 147/62(98)} mmHg
   RR: 11 (10 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             1,793 mL
   PO:
             TF:
   IVF:
   1,793 mL
   Blood products:
   Total out:
                                                                     10 mL
                                                                    185 mL
   Urine:
                                                                     10 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -10 mL
                                                                  1,608 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.8 g/dL
   147 K/uL
   244 mg/dL
   9.3 mg/dL
   22 mEq/L
   5.6 mEq/L
   63 mg/dL
   103 mEq/L
   139 mEq/L
   35.7 %
   20.0 K/uL
        [image002.jpg]
                            [**2200-11-24**]  11:20 PM
                            [**2200-11-25**]  04:28 AM
   WBC
   18.1
   20.0
   Hct
   35.5
   35.7
   Plt
   143
   147
   Cr
   9.2
   9.3
   TropT
   0.07
   Glucose
   264
   244
   Other labs: PT / PTT / INR:13.4/25.6/1.1, CK / CKMB /
   Troponin-T:6445//0.07, ALT / AST:47/79, Alk Phos / T Bili:123/0.6,
   Differential-Neuts:77.3 %, Lymph:16.1 %, Mono:6.0 %, Eos:0.3 %, LDH:388
   IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:6.5 mg/dL
   Imaging: Head CT:  negative
   CXR:  no infiltrates, CHF or effusions, cardiac silohouette within
   normal limits
   Microbiology: Blood cx x 1 pending.
   ECG: SR @ 98, slight ST depressions inferiorlaterally
   Assessment and Plan
   1.  Altered mental status:  Opiates in tox screen in setting of renal
   failure.  Head CT negative.  He has a leukocytosis without a left
   shift.
   2.  Leukocytosis:  No left shift.  Doesn't look toxic albeit don't have
   a good reason for his altered MS.  [**Name13 (STitle) 133**] attempt LP.  Check smear.
   Follow up blood cx.  Send urine for cx.
   3.  Dehydration:  Needs further fluid challenge, monitor urine output
   and respiratory status here in the ICU. Two peripheral IVs in place.
   3.  DM:  RISS, hydration.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2200-11-24**] 10:50 PM
   22 Gauge - [**2200-11-24**] 10:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2200-11-26 07:10:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 11276**] PROGRESS NOTE
   Chief Complaint: found down
   24 Hour Events:
 ULTRASOUND - At [**2200-11-25**] 12:45 PM
 URINE CULTURE - At [**2200-11-25**] 04:50 PM
 EKG - At [**2200-11-25**] 10:00 PM
   -Identified patient and obtained collateral information
   -Seen by renal, who will place dialysis line in a.m.
   -Gave Kayexalate PR for hyperkalemia
   -Attempted lumbar puncture but needed to get longer needle -> obtained
   longer needle but did not do LP overnight
   - Now w/ new serosanguinous drainage from posterior occiput
   Allergies:
   Last dose of Antibiotics:
   Infusions
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2200-11-25**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-11-26**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98.1
   HR: 76 (75 - 88) bpm
   BP: 130/69(82) {97/41(68) - 149/78(87)} mmHg
   RR: 13 (10 - 16) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,030 mL
                                                                     70 mL
   PO:
             TF:
   IVF:
                                                                  6,030 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                    964 mL
                                                                    600 mL
   Urine:
                                                                    964 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,066 mL
                                                                   -530 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General: opens eyes, makes grunting noises, now responds to verbal
   commands, states he is not in pain, answers questions in one or two
   word responses
   HEENT:, PERRL; posterior occiput with traumatic leison draining small
   amts serosanguinous fluid onto chux
   Neck: supple, no JVD or carotid bruits appreciated
   Pulmonary: Lungs CTA bilaterally but difficult to assess with
   rhonchorous upper airway sounds
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
   organomegaly noted.
   Extremities: No C/C/E bilaterally, 2+ radial, DP and PT pulses b/l.
   Skin: no rashes or lesions noted
   Neurologic:  very limited exam, normal muscle tone
   Labs / Radiology
   135 K/uL
   10.8 g/dL
   131
   9.4 mg/dL
   21 mEq/L
   5.7 mEq/L
   71 mg/dL
   111 mEq/L
   141 mEq/L
   32.9 %
   16.5 K/uL
        [image002.jpg]
                            [**2200-11-24**]  11:20 PM
                            [**2200-11-25**]  04:28 AM
                            [**2200-11-25**]  08:34 PM
                            [**2200-11-25**]  08:46 PM
                            [**2200-11-26**]  12:00 AM
                            [**2200-11-26**]  06:00 AM
   WBC
   18.1
   20.0
   16.5
   Hct
   35.5
   35.7
   32.9
   Plt
   143
   147
   135
   Cr
   9.2
   9.3
   9.4
   TropT
   0.07
   Glucose
   [**Telephone/Fax (3) 11599**]29
   131
   Other labs: PT / PTT / INR:13.1/26.6/1.1, CK / CKMB /
   Troponin-T:4367//0.07, ALT / AST:47/79, Alk Phos / T Bili:123/0.6,
   Differential-Neuts:77.3 %, Lymph:16.1 %, Mono:6.0 %, Eos:0.3 %, LDH:388
   IU/L, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
   53 year old African-American man found unresponsive with altered mental
   status, elevated WBC and renal failure, now with some improvement in
   mental status.
   .
   #AMS: Etiology unclear.  Trauma (as evidenced by posterior occiput
   lesion draining bloody fluid) vs. Toxic metabolic vs. infectious.
   Positive opiates. Head CT neg for acute intracranial process.
   Leukocytosis suggests possible infectious etiology, although no clear
   source of infection at this point.  ARF likely additional contributor
   - f/u urgent head CT
   - f/u blood  and urine cx's
   - Trend WBC counts, smear
   - no LP indicated
   -No Abx for now
   -Continue thiamine and folate
   -Continue frequent observation of mental status
   -F/u Ammonia level
   .
   # Acute Renal Failure: unkown etiology at this time but appears to be
   acute given nl HCT and high K. FENa 0.65 suggests prerenal etiology.
   Rhabdomyolysis may be contributing, but unlikely to be the cause.
   - continue to trend CK
   - recheck lytes including K in PM, repeat EKG if K elevated
   - Appreciate renal c/s; renal to place HD line today
   - plan for HD session in PM
   -Trend Cr; volume status
   - F/u Renal recs
   - cts IVF @ 200cc/hr for rhabdo
   #Hyperglycemia:
   -Monitor FS; Insulin sliding scale
   ICU Care
   Nutrition: NPO given AMS
   Glycemic Control: RISS
   Lines:
   20 Gauge - [**2200-11-24**] 10:50 PM
   22 Gauge - [**2200-11-24**] 10:50 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2200-11-26 10:48:00 Physician Attending Progress Note
Chief Complaint: altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2200-11-25**] 12:45 PM
 URINE CULTURE - At [**2200-11-25**] 04:50 PM
 EKG - At [**2200-11-25**] 10:00 PM
   Right IJ dialysis catheter placed under US guidance with renal fellow
   Now sputum raised appears yellow, thick per nursing
   Patient unable to provide history: poor historian
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2200-11-25**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-11-26**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.7
   HR: 75 (75 - 87) bpm
   BP: 140/74(90) {97/41(68) - 149/78(93)} mmHg
   RR: 12 (10 - 16) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,030 mL
                                                                    105 mL
   PO:
             TF:
   IVF:
                                                                  6,030 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                    964 mL
                                                                  1,180 mL
   Urine:
                                                                    964 mL
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,066 mL
                                                                 -1,075 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, excoriattion on back of head,
   nimimal serosanguinous drainage, no fluctulence
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: poor inspiratory effort, occasional crackles at
   bases
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, more alert this am, knows he is in the hospital
   Labs / Radiology
   11.1 g/dL
   126 K/uL
   123 mg/dL
   8.6 mg/dL
   21 mEq/L
   5.7 mEq/L
   74 mg/dL
   111 mEq/L
   144 mEq/L
   33.1 %
   16.7 K/uL
        [image002.jpg]
                            [**2200-11-24**]  11:20 PM
                            [**2200-11-25**]  04:28 AM
                            [**2200-11-25**]  08:34 PM
                            [**2200-11-25**]  08:46 PM
                            [**2200-11-26**]  12:00 AM
                            [**2200-11-26**]  06:00 AM
                            [**2200-11-26**]  06:03 AM
   WBC
   18.1
   20.0
   16.5
   16.7
   Hct
   35.5
   35.7
   32.9
   33.1
   Plt
   143
   147
   135
   126
   Cr
   9.2
   9.3
   9.4
   8.6
   TropT
   0.07
   Glucose
   [**Telephone/Fax (3) 11599**]29
   131
   123
   Other labs: PT / PTT / INR:13.1/26.6/1.1, CK / CKMB /
   Troponin-T:3207//0.07, ALT / AST:38/44, Alk Phos / T Bili:100/0.5,
   Amylase / Lipase:139/22, Differential-Neuts:77.3 %, Lymph:16.1 %,
   Mono:6.0 %, Eos:0.3 %, LDH:332 IU/L, Ca++:8.1 mg/dL, Mg++:1.7 mg/dL,
   PO4:6.3 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):   Unclear etiology.
   Dialysis catheter for HD today.  Urine output picked up with volume
   resucitation.  Does not appear dry on exam.  Check CXR.
 ALTERED MENTAL STATUS:  More alert this morning albeit still only
   oriented x 1. Continues uremic, to be dialyzed as above.  Head
   excoriation noted. Repeat head CT pending.  Unsuccessful attempts at
   LP, now mental status improved and WBC trending down.  Will hold unless
   he deteriorates.  WBC trending down off abx, no micro data.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2200-11-24**] 10:50 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:  35

2200-11-27 07:31:00 Physician Resident Progress Note
TITLE: PHYSICIAN RESIDENT PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2200-11-26**] 02:03 PM
 CALLED OUT
   - renal placed HD line, patient got dialysis
   - call out to floor
   - put on contact precautions for positive MRSA screen
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2200-11-26**] 12:23 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2200-11-27**] 04:00 AM
   Metoprolol - [**2200-11-27**] 06:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-11-27**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 99 (68 - 125) bpm
   BP: 138/70(85) {123/70(84) - 178/95(115)} mmHg
   RR: 18 (12 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,499 mL
                                                                    315 mL
   PO:
                                                                    120 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,379 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  2,535 mL
                                                                  1,150 mL
   Urine:
                                                                  2,535 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -36 mL
                                                                   -835 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General: Awake and alert. NAD.
   Pulmonary: Lungs CTA bilaterally although diminished throughout, likely
   [**2-10**] poor effort
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: soft, NT/ND, normoactive bowel sounds
   Extremities: No C/C/E bilaterally, warm and well-perfused.
   Skin: Vesicles and bullae on left forearm.
   Neurologic: Alert, oriented to year. Thinking appears slowed. Overall,
   mental status extremely improved relative to yesterday but still
   abnormal. Moves all extremities.
   Labs / Radiology
   156 K/uL
   12.1 g/dL
   177 mg/dL
   3.9 mg/dL
   25 mEq/L
   4.6 mEq/L
   53 mg/dL
   104 mEq/L
   144 mEq/L
   36.6 %
   14.2 K/uL
        [image002.jpg]
                            [**2200-11-24**]  11:20 PM
                            [**2200-11-25**]  04:28 AM
                            [**2200-11-25**]  08:34 PM
                            [**2200-11-25**]  08:46 PM
                            [**2200-11-26**]  12:00 AM
                            [**2200-11-26**]  06:00 AM
                            [**2200-11-26**]  06:03 AM
                            [**2200-11-26**]  05:07 PM
                            [**2200-11-27**]  05:18 AM
   WBC
   18.1
   20.0
   16.5
   16.7
   14.2
   Hct
   35.5
   35.7
   32.9
   33.1
   36.6
   Plt
   143
   147
   135
   126
   156
   Cr
   9.2
   9.3
   9.4
   8.6
   4.5
   3.9
   TropT
   0.07
   Glucose
   [**Telephone/Fax (3) 11599**]29
   131
   123
   140
   177
   Other labs: PT / PTT / INR:13.1/26.6/1.1, CK / CKMB /
   Troponin-T:[**2191**]//0.07, ALT / AST:42/36, Alk Phos / T Bili:104/1.1,
   Amylase / Lipase:139/22, Differential-Neuts:77.3 %, Lymph:16.1 %,
   Mono:6.0 %, Eos:0.3 %, LDH:371 IU/L, Ca++:8.6 mg/dL, Mg++:1.6 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
   53 year old man found unresponsive with altered mental status, elevated
   WBC and renal failure, now with some improvement in mental status.
   .
   # Altered mental status: Etiology unclear. Toxic/metabolic seems most
   likely. Improvement with dialysis suggests uremia or dialyzable toxin
   at least partly responsible for altered mental status. Has access to
   opioids at home. Head CT negative for acute intracranial process.
   Leukocytosis suggests possible infectious etiology, although no clear
   source of infection at this point.
   - f/u blood  and urine cx's
   - Trend WBC counts
   - Will not perform LP
   - Continue thiamine and folate
   - Continue frequent observation of mental status
   - F/u Ammonia level
   .
   # Acute Renal Failure/Elevated CK: Unknown etiology at this time but
   appears to be acute given normal Hct.  FENa 0.65 suggests prerenal
   etiology. Rhabdomyolysis may be contributing, but unlikely to be the
   cause.
   - continue to trend CK
   - check lytes [**Hospital1 7**]
   - f/u renal recs
   - trend Cr; volume status
   - encourage PO; if patient cannot maintain good PO, start IVF to keep
   urine output up in setting of elevated CK
   #Hyperglycemia:
   - Monitor FS; Insulin sliding scale
   # Sputum production:
   - Treat with levofloxacin x 5 days
   # Hypertension: Takes nifedipine, lisinopril, and metoprolol at home.
   - Monitor BP
   - Continue nifedipine and metoprolol
   - Holding lisinopril in the setting of acute renal failure
   ICU Care
   Nutrition: Diabetic diet
   Glycemic Control: Insulin sliding scale
   Lines:
   20 Gauge - [**2200-11-24**] 10:50 PM
   22 Gauge - [**2200-11-24**] 10:50 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Called out to medical floor.

2200-11-27 11:56:00 Physician Attending Progress Note
Chief Complaint: Altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2200-11-26**] 02:03 PM
 CALLED OUT
   More alert and awake today, still only oriented to year
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2200-11-26**] 12:23 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2200-11-27**] 11:34 AM
   Metoprolol - [**2200-11-27**] 11:34 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2200-11-27**] 11:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 92 (68 - 125) bpm
   BP: 121/103(106) {121/70(84) - 178/103(115)} mmHg
   RR: 18 (12 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,499 mL
                                                                    768 mL
   PO:
                                                                    120 mL
                                                                    600 mL
   TF:
   IVF:
                                                                  2,379 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                  2,535 mL
                                                                  2,100 mL
   Urine:
                                                                  2,535 mL
                                                                  2,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -36 mL
                                                                 -1,333 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : occasional crackles at
   bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm, small bullous lesions on left forearm are new, no warmth
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.1 g/dL
   156 K/uL
   327
   3.9 mg/dL
   25 mEq/L
   4.6 mEq/L
   53 mg/dL
   104 mEq/L
   144 mEq/L
   36.6 %
   14.2 K/uL
        [image002.jpg]
                            [**2200-11-24**]  11:20 PM
                            [**2200-11-25**]  04:28 AM
                            [**2200-11-25**]  08:34 PM
                            [**2200-11-25**]  08:46 PM
                            [**2200-11-26**]  12:00 AM
                            [**2200-11-26**]  06:00 AM
                            [**2200-11-26**]  06:03 AM
                            [**2200-11-26**]  05:07 PM
                            [**2200-11-27**]  05:18 AM
                            [**2200-11-27**]  11:00 AM
   WBC
   18.1
   20.0
   16.5
   16.7
   14.2
   Hct
   35.5
   35.7
   32.9
   33.1
   36.6
   Plt
   143
   147
   135
   126
   156
   Cr
   9.2
   9.3
   9.4
   8.6
   4.5
   3.9
   TropT
   0.07
   Glucose
   [**Telephone/Fax (3) 11599**]29
   131
   123
   140
   177
   327
   Other labs: PT / PTT / INR:13.1/26.6/1.1, CK / CKMB /
   Troponin-T:[**2191**]//0.07, ALT / AST:42/36, Alk Phos / T Bili:104/1.1,
   Amylase / Lipase:139/22, Differential-Neuts:77.3 %, Lymph:16.1 %,
   Mono:6.0 %, Eos:0.3 %, LDH:371 IU/L, Ca++:8.6 mg/dL, Mg++:1.6 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Still unclear as to
   etiology.  HD intiated yesterday after placement of RIJ dialysis
   catether.  Labs improved.  His mental status continues slowly to get
   better.
 ALTERED MENTAL STATUS (NOT DELIRIUM):  Slowly improving with
   hydration and HD started yesterday.
 HYPERTENSION:  Restarted amlodipine and beta blocker.
 TRACHEOBRONCHITIS:  On azithromycin given production of yellow
   sputum.  Minimal cough.  To complete a 5 day course.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2200-11-24**] 10:50 PM
   Dialysis Catheter - [**2200-11-26**] 02:03 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes